US08791267B2
Synthesis of 2-Methoxy-5-methyl-3′-nitro-biphenyl (I-69):
A reaction mixture of 2-methoxy-5-methylphenyl boronic acid (1.65 g, 10 mmol), 3-nitro-iodobenzen (2.49 g, 10 mmol), K2CO3 (2.76 g, 20 mmol), palladium(II)acetate (112 mg, 0.5 mmol) in methanol (75 ml) and water (15 ml) was stirred at rt overnight. The reaction mixture was diluted with ethyl acetate (300 ml) washed with diluted Na2S2O7 aq., water, brine, and dried over Na2SO4. After removal of solvent, 2.5 g (100%) of I-69 was obtained.

reactant | 2-methoxy-5-methylphenyl boronic acid | 10 mmol, 1.65 g | COC1=C(C=C(C=C1)C)B(O)O | C8H11BO3
reactant | 3-nitro-iodobenzen | 10 mmol, 2.49 g | [N+](=O)([O-])C=1C=C(C=CC1)I | C6H4INO2
reactant | K2CO3 | 20 mmol, 2.76 g | C(=O)([O-])[O-].[K+].[K+]
solvent | methanol | 75 ml | CO | CH4O
solvent | water | 15 ml | O | H2O
solvent | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium(II)acetate | 0.5 mmol, 112 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 2-Methoxy-5-methyl-3′-nitro-biphenyl | COC1=C(C=C(C=C1)C)C1=CC(=CC=C1)[N+](=O)[O-] | C14H13NO3
